US04235905
6-Amino-1,3-dimethyl-1H-pyrazolo{3,4-d}pyrimidin-4(5H)-one
A mixture of 8-amino-1,3,5-trimethyl-1H-pyrimido{4,5-c}-1,2-diazepin-6(7H)-one (219 mg) and N hydrochloric acid (3 ml) was heated using a hot water bath (>85° C.) for 2 hours. During that period a solution formed before crystals gradually began to separate. The mixture stood at room temperature overnight before the straw-coloured crystals were collected, washed with water and dried under vacuum (70° C.) to yield 140 mg (78%) of analytically pure product: mp>300°; nmr (DMSO-d6) δ2.28 (s, 3H), 3.60 (s, 3H), 6.52 (br s, 2H), 10.30 (br s, 1H); uv λmax (CH3OH) 217 nm (ε26,800), 254 (13,000). Mass spectrum (120° C., 70 ev): M, m/e 179, 100%.

reactant | 8-amino-1,3,5-trimethyl-1H-pyrimido{4,5-c}-1,2-diazepin-6(7H)-one | 219 mg | NC=1NC(C2=C(N(N=C(C=C2C)C)C)N1)=O | C10H13N5O
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | CH3OH | CO | CH4O
product | 6-Amino-1,3-dimethyl-1H-pyrazolo{3,4-d}pyrimidin-4(5H)-one | NC=1NC(C2=C(N1)N(N=C2C)C)=O | C7H9N5O
